US04018757
A. 21-Acetyloxy-11β-bromo-9-fluoropregna-4,16-diene-3,20-dione
A solution of 21-acetyloxy-11β-bromo-9-fluoro-17-hydroxypregn-4-ene-3,20-dione (4.0 g) in pyridine (10 ml) is cooled to 10° C. A solution of N-bromosuccinimide (2.0 g) in pyridine (7.0 ml) is added at 10° C and the mixture is warmed to room temperature and stirred for 10 minutes. It is recooled to 10° C and a solution of sulfur dioxide (2.2 g) in pyridine (10 ml) is added. The mixture is warmed to room temperature and then added slowly, with stirring into 1N hydrochloric acid (300 ml). The title compound is separated and purified.

reactant | 21-acetyloxy-11β-bromo-9-fluoro-17-hydroxypregn-4-ene-3,20-dione | 4.0 g | C(C)(=O)OCC([C@]1(CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@]3([C@H](C[C@]12C)Br)F)=O)O)=O | C23H30BrFO5
reactant | N-bromosuccinimide | 2.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sulfur dioxide | 2.2 g | S(=O)=O | O2S
reactant | hydrochloric acid | 1N, 300 ml | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 7.0 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 21-Acetyloxy-11β-bromo-9-fluoropregna-4,16-diene-3,20-dione | C(C)(=O)OCC(C1=CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@]3([C@H](C[C@]12C)Br)F)=O)=O | C23H28BrFO4
